Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Rectal bleeding 
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
This is a ___ with history of Htn, HLD and polyp noted on
screening colonoscopy 2 months ago who had elective polypectomy
yesterday ___ who presents with bright red bleeding per
rectum. He tolerated his procedure well with no complaints and
last night when he went home began to fill the toilet bowl with
blood. No history of abdominal or rectal pain and is feeling
fine. 

His daughter took him to ___ where he was noted to have a drop 
in
his hematocrit and blood pressures in the 80-90's systolic. He
was not given any blood products at ___, and was subsequently
transferred to ___ for endoscopic evaluation since his
procedure was here at ___. 

He reports no pain (rectal or abdominal), n/v/d, fever, chills,
chest pain, SOB, or other complaints. 

ROS: A 10 point review of systems is otherwise negative unless
stated in HPI. 

ED Course: 
Hematocrit at ___ 35
Hematocrit at ___ 30
ERCP team was consulted and requested GoLytely bowel prep
Per ED records there is no mention of meds administered/IVF 
given
at ___ 
 
Past Medical History:
Hypertension
Hyperlipidemia
Insomnia
History of known colon polyp
GERD 
R TKR
 
Social History:
___
Family History:
None significant per patient, "parents have general conditions
like hypertension but no cancer" 
 
Physical Exam:
VS 98.5 PO 118 / 73 72 18 98 RA 
Gen - no distress, sitting up in bed, well appearing 
HEENT - nc/at, moist oral mucosa, no OP lesion or exudate
Eyes - anicteric, perrl
Neck - supple, no LAD
___ - RRR, s1/2, no murmurs
Lungs - CTA b/l, no w/r/r
Abd - soft, NT, ND, +BS
Ext - no peripheral edema or cyanosis 
Skin - warm, dry, no rashes
Psych - calm, appropriate 
Neuro - non focal, moves all extremities
Rectal - deferred 
 
Pertinent Results:
Hg 9.6/Hct 29.6 <- 9.7/30.5 <- crit 35 from ___ 
Na 138, K 4.5, Cl 102, Co2 20, Bun 15, Cr 1.0, Gluc 147

Colonoscopy ___
The previous polypectomy site (40cm from anal verge) was 
carefully inspected. A previously placed endoclip was seen at 
the base of the stalk. However, a 1cm ulcer with visible vessel 
was seen at the base. No active bleeding was seen. Two endoclips 
were successfully placed. 
 
Brief Hospital Course:
___ hx Htn, HLD p/w BRBPR after colonoscopy w/ polypectomy. Had 
finished bowel prep by the time of admission and went to 
endoscopy suite soon after admission. Visible vessel was noted 
w/o active bleeding. Patient had 2 endoclips placed. Given no 
further bleeding his diet was advanced and he was cleared by GI 
team to go home. A repeat CBC was not done prior to discharge 
given the patient had no further bleeding and was 
hemodynamically stable, and he was advised to see his PCP early 
next week for a set of labs. 

#BRBPR
#Acute blood loss anemia
-Likely ___ post procedural bleeding 
-Colonscopy as above, no active bleeding
-BP's stabilized, did not receive any blood products, and no 
further bleeding
-Repeat CBC within ___ days after discharge
-F/u with outpatient gastroenterologist for serial colonoscopy 
per o/p GI recs
-Hemodynamically stable by the time of discharge w/ no further 
signs of blood loss
-Clears today and advance as tolerated 

#Hypertension
-BP 110's systolic, hold lisinopril for now
-Patient advised to check BP in AM and if stable can resume ACE 
in AM 

#Hyperlipidemia
-Continue statin 

#GERD 
-continue omeprazole 

#Insomnia
-Continue ambien

 
#Code Status: full, presumed 
#Disposition: dc home today, no services 

Total time spent today with admission and discharge: 70 minutes 
Plan of care discussed with pt and 2 of his daughters at 
bedside. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Zolpidem Tartrate 10 mg PO QHS 

 
Discharge Medications:
1.  Lisinopril 40 mg PO DAILY  
2.  Omeprazole 40 mg PO DAILY  
3.  Simvastatin 40 mg PO QPM  
4.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectal bleeding post polypectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because of bleeding after your 
colonoscopy. Some clips were placed at the site of your polyp 
removal but no active bleeding was seen. If you experience 
recurrence of your bleeding please call your gastroenterologist 
or return to the ED. You will need a repeat set of labwork early 
this week to make sure your counts are stable. Please do not 
take your lisinopril until tomorrow and check your blood 
pressure before taking your morning medications. 

We wish you the best!

Sincerely, 
Your care team at ___
 
Followup Instructions:
___